US08183380B2
rac-2-Cyclopropyl-N-[2-(5-fluoro-indan-1-ylamino)-quinolin-6-yl]-acetamide
The title compound was prepared in accordance with the general method 14 described in example 119 from rac-N2-(5-fluoro-indan-1-yl)-quinoline-2,6-diamine and cyclopropyl acetic acid; MS: m/e=376.2 (M+H+).

reactant | rac-N2-(5-fluoro-indan-1-yl)-quinoline-2,6-diamine | FC=1C=C2CCC(C2=CC1)NC1=NC2=CC=C(C=C2C=C1)N | C18H16FN3
reactant | cyclopropyl acetic acid | C1(CC1)CC(=O)O | C5H8O2
product | rac-2-Cyclopropyl-N-[2-(5-fluoro-indan-1-ylamino)-quinolin-6-yl]-acetamide | C1(CC1)CC(=O)NC=1C=C2C=CC(=NC2=CC1)NC1CCC2=CC(=CC=C12)F | C23H22FN3O
